US09340538B2
Step C: Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(5-methyl-1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
5-methyl-1,3,4-thiadiazole-2-carboximidamide hydrochloride (1.8 g, 10 mmol) was reacted with 2-bromo-4-fluorobenzaldehyde (2.03 g, 10 mmol) and ethyl 3-oxobutanoate (1.56 g, 12 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (1.0 g, 25%). The compound was characterized by the following spectroscopic data:

reactant | 5-methyl-1,3,4-thiadiazole-2-carboximidamide hydrochloride | 10 mmol, 1.8 g | Cl.CC1=NN=C(S1)C(N)=N
reactant | 2-bromo-4-fluorobenzaldehyde | 10 mmol, 2.03 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | ethyl 3-oxobutanoate | 12 mmol, 1.56 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(5-methyl-1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.0 g, 25% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC(=NN1)C | C17H16BrFN4O2S
